US06207686B1
To a solution of Boc-L-Trp-OBzl (5.00 g), tetra-n-butylammonium sulfate (43 mg) and NaOH (sodium hydroxide) (1.27 g) in methylene chloride (100 ml) was added a solution of ethyl bromoacetate (5.29 g) in methylene chloride (50 ml) in an ice-bath cooling. After being stirred at room temperature for 2 days, the mixture was washed with 5% aqueous potassium hydrogen sulfate solution, 1M aqueous sodium bicarbonate solution and brine, dried over magnesium sulfate, and concentrated in vacuo to afford Boc-L-Trp(CH2COOEt)-OBzl (6.10 g) as an oil.

reactant | Boc-L-Trp-OBzl | 5.00 g | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H26N2O4
reactant | NaOH | 1.27 g | [OH-].[Na+]
reactant | ethyl bromoacetate | 5.29 g | BrCC(=O)OCC | C4H7BrO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | tetra-n-butylammonium sulfate | 43 mg | S(=O)(=O)([O-])[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
product | Boc-L-Trp(CH2COOEt)-OBzl | 6.10 g | N([C@@H](CC1=CN(C2=CC=CC=C12)CC(=O)OCC)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C27H32N2O6
